US06878715B1
To a solution of (S)-1-(5-hydroxyhexyl)-8-(N-BOC-aminomethyl)-3-methylxanthine (0.4 g, 1.0 mmol) and 4-dimethylaminopyridine (0.61 g, 5.0 mmol) in chloroform (15 ml) was added methanesulfonic anhydride (0.35 g, 2.0 mmol). After stirring at room temperature overnight, the solvent was evaporated under reduced pressure. A mixture of ethyl acetate and water (1:1) (100 ml) was added. The organic phase was washed with aqueous potassium hydrogen sulfate solution (0.1 N) to pH=2-3, with water (2×15 ml), with saturated aqueous sodium chloride solution (15 ml), dried over magnesium sulfate, and concentrated under reduced pressure to afford (S)-1-(5-methanesulfonyloxyhexyl)-8-(N-BOC-aminomethyl)-3-methylxanthine (0.47 g, 100% yield) as a white solid.

reactant | (S)-1-(5-hydroxyhexyl)-8-(N-BOC-aminomethyl)-3-methylxanthine | 1.0 mmol, 0.4 g | O[C@H](CCCCN1C(=O)N(C=2N=C(NC2C1=O)CNC(=O)OC(C)(C)C)C)C | C18H29N5O5
reactant | methanesulfonic anhydride | 2.0 mmol, 0.35 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
catalyst | 4-dimethylaminopyridine | 5.0 mmol, 0.61 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
product | (S)-1-(5-methanesulfonyloxyhexyl)-8-(N-BOC-aminomethyl)-3-methylxanthine | 0.47 g, 100% yield | CS(=O)(=O)O[C@H](CCCCN1C(=O)N(C=2N=C(NC2C1=O)CNC(=O)OC(C)(C)C)C)C | C19H31N5O7S
